US05126128
Periplanone-B analogue of (4E, 8R, 9R, 10R)-8,9-epoxy-5-methyl-10,10-methylene-oxy-4-cyclodecen-1-one, suitable as cockroach attractant can be prepared by reacting 6-methyl-2,6-cyclodecadien-1-one with a silylating reagent under the presence of a basic catalyst to form a silyldienol ether, reacting the resultant ether with an organic peracid to obtain (2Z, 6E)-10-hydroxy-6-methyl-2,6-cyclodecadien-1-one, reacting the resultant product with a peroxide under the presence of a basic catalyst after protecting hydroxy groups thereof with protection groups to obtain an epoxide, reacting the epoxide with chloromethyl lithium or dimethyl sulfonium methylide thereby introducing a spiroepoxy group and then removing the protection groups, to obtain (1S, 4E, 8R, 9R, 10S)-8,9-epoxy-5-methyl-10,10-methyleneoxy-4-cyclodecen-1-ol and, further, oxidizing the resultant product with a chromic acid type or dimethyl sulfoxide type oxidizing agents.

reactant | Periplanone-B | CC(C)C\1CC(=O)C2(CO2)C3C(O3)CC(=C)/C=C1 | C15H20O3
reactant | 6-methyl-2,6-cyclodecadien-1-one | CC=1CCC=CC(CCCC1)=O | C11H16O
solvent | ether | CCOCC | C4H10O
product | (2Z, 6E)-10-hydroxy-6-methyl-2,6-cyclodecadien-1-one | OC1CC/C=C(/CC\C=C/C1=O)\C | C11H16O2
